US05175157
3-[(N-((2-Methyl-naphth-1-yl)-methyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-hydrochloride
Prepared from 3-[(piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine and 1-chloromethyl-2-methylnaphthalene analogously to Example 1.

reactant | 3-[(piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine | N1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C18H26N2O3
reactant | 1-chloromethyl-2-methylnaphthalene | ClCC1=C(C=CC2=CC=CC=C12)C | C12H11Cl
product | 3-[(N-((2-Methyl-naphth-1-yl)-methyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-hydrochloride | Cl.CC1=C(C2=CC=CC=C2C=C1)CN1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | InChI=1S/C30H36N2O3.ClH/c1-21-10-11-23-8-4-5-9-26(23)27(21)20-31-13-6-7-22(18-31)19-32-14-12-24-15-28(34-2)29(35-3)16-25(24)17-30(32)33;/h4-5,8-11,15-16,22H,6-7,12-14,17-20H2,1-3H3;1H
